US06140512
Under an argon atmosphere, sodium bicarbonate (1.78 g, 21.20 mmol) and 80-90% w/w MCPBA (4.95 g, 28.26 mmol) were added to a solution of (±)-2-(2'-acetoxyethyl)cyclohexanone (2.60 g, 14.13 mmol) (0.50 mmol) in dichloromethane (70 ml) at room temperature. The mixture was stirred at room temperature for 3 h, and diluted with dichloromethane (80 ml) and washed sequentially with a saturated sodium sulphite solution (3×100 ml), distilled water (100 ml) and brine (100 ml). The organic phase was dried over magnesium sulphate. After filtration, the solvent was evaporated under reduced pressure to give the crude product which was purified by flash column chromatography using hexane-ethyl acetate (2:3) as eluent to give (±)-7-(2'-acetoxyethyl)-2-oxepanone, as a colourless oil (2.76 g, 98% yield). Rf 0.40 (hexane-ethyl acetate, 7:3).

reactant | sodium bicarbonate | 21.20 mmol, 1.78 g | C([O-])(O)=O.[Na+]
reactant | MCPBA | 28.26 mmol, 4.95 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | (±)-2-(2'-acetoxyethyl)cyclohexanone | 14.13 mmol, 2.60 g | C(C)(=O)OCCC1C(CCCC1)=O | C10H16O3
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (±)-7-(2'-acetoxyethyl)-2-oxepanone | C(C)(=O)OCCC1CCCCC(O1)=O | C10H16O4
